US07488598B2
Preparation of 2-Fluoro-9-(2,3,5-tri-O-benzoyl-α-L-lyxofuranosyl)-9H-purin-6-amine (1a)
A suspension of a 2-fluoroadenine (107.8 mg, 0.70 mmol) and ammonium sulfate (5.3 mg) in 1,1,1,3,3,3-hexamethyldisilazane (HMDS) (10 ml) is refluxed under argon for 7 h. More ammonium sulfate (4.6 mg) is added, and reflux is continued for 24 h. After cooling the reaction mixture to room temperature, the HMDS is removed in vacuo, and the residue is co-evaporated with anhydrous toluene (3×3 ml). To this material is added 1-O-acetyl-2,3,5-tri-O-benzoyl-L-lyxofuranose (212 mg, 0.42 mmol) dissolved in anhydrous acetonitrile (7 ml). The resulting suspension is chilled to −10° C. before being treated dropwise over 5 min with 2.1 ml of 1.0 M stannic chloride (SnCl4) in dichloromethane. The now clear reaction solution is warmed to 0° C. over 15 min and then stirred at room temperature. After 3 h, the solution is added dropwise to ice-cold saturated NaHCO3 (100 ml) and stirred 10 min at 5° C. Ethyl acetate (75 ml) is added, and the separated aqueous layer is extracted with more ethyl acetate (2×50 ml). The combined organics are washed with brine (50 ml), dried (MgSO4), and evaporated to a solid. Column chromatography on 20 g silica gel (95:5 chloroform-methanol) gave 1 a as a white solid after ethanol crystallization.

reactant | 2-fluoroadenine | 0.70 mmol, 107.8 mg | FC1=NC(=C2NC=NC2=N1)N | C5H4FN5
reactant | ammonium sulfate | 5.3 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | ammonium sulfate | 4.6 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-L-lyxofuranose | 0.42 mmol, 212 mg | C(C)(=O)OC1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
reactant | Ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
solvent | 1,1,1,3,3,3-hexamethyldisilazane | 10 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Fluoro-9-(2,3,5-tri-O-benzoyl-α-L-lyxofuranosyl)-9H-purin-6-amine | FC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@@H](O1)COC(C1=CC=CC=C1)=O)N | C31H24FN5O7
